US06054605
3-chloro-2-fluoro-6-trifluoromethylbenzamide (Compound No. 22)
420 g of thionyl chloride was added to 286 g of 3-chloro-2-fluoro-6-trifluoromethylbenzoic acid, and to the resultant mixture was further added 5 drops of triethylamine and the mixture then heated at reflux for 4 hours. After cooling, the reaction mixture was concentrated under reduced pressure, and 3-chloro-2-fluoro-6-trifluoromethylbenzoyl chloride obtained was added into 1 liter of 28% aqueous ammonia solution, which has be cooled down to 5° C. over 10 minutes with stirring. Then. the solution was further stirred for 1 hour at room temperature. The reaction mixture was extracted with ether, and the extract was washed with water and with saturated saline solution and dried over anhydrous magnesium sulfate. The solvent was distilled under reduced pressure, and the crude crystals obtained were washed with n-hexane and then filtered to obtain 266 g of the title compound(mp. 123-125° C.).

reactant | thionyl chloride | 420 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloro-2-fluoro-6-trifluoromethylbenzoic acid | 286 g | ClC=1C(=C(C(=O)O)C(=CC1)C(F)(F)F)F | C8H3ClF4O2
reactant | ammonia | 1 liter | N | H3N
catalyst | triethylamine | 5 drops | C(C)N(CC)CC | C6H15N
product | 3-chloro-2-fluoro-6-trifluoromethylbenzamide | 266 g | ClC=1C(=C(C(=O)N)C(=CC1)C(F)(F)F)F | C8H4ClF4NO
